US05101048
Preparation of 4-acetamidophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside (Example 32a)
30 mg of 10% palladium-on-charcoal are added to a solution of 150 mg (0.36.10-3 mol) of 4-nitrophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside in acetic anhydride, under a nitrogen atmosphere, and the reaction mixture obtained is then kept under hydrogen pressure (3.5.105Pa) at 50° C. for 15 hours. After filtration, the mixture is evaporated to dryness under reduced pressure and the residue obtained is purified by chromatography using a methylene chloride/methanol mixture (98/2 v/v) as the eluent to give 80 mg (yield: 51%) of the expected product.

reactant | 4-nitrophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | 36.10-3 mol, 150 mg | C(C)(=O)O[C@H]1[C@H](OC2=CC=C(C=C2)[N+](=O)[O-])SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H19NO9S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium-on-charcoal | 30 mg | [Pd] | Pd
product | 4-acetamidophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | 80 mg, yield: 51% | C(C)(=O)O[C@H]1[C@H](OC2=CC=C(C=C2)NC(C)=O)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C19H23NO8S
